US04117128
3-(4-Chlorophenyl)-2-[4-(3-diethylaminopropoxy)phenylsulfonyl]benzofuran
Reaction of 3-(4-chlorophenyl)-2-(4-hydroxyphenylsulfonyl)benzofuran with 3-diethylaminopropyl chloride by the method described in Example 1 gives the title compound.

reactant | 3-(4-chlorophenyl)-2-(4-hydroxyphenylsulfonyl)benzofuran | ClC1=CC=C(C=C1)C1=C(OC2=C1C=CC=C2)S(=O)(=O)C2=CC=C(C=C2)O | C20H13ClO4S
reactant | 3-diethylaminopropyl chloride | C(C)N(CCCCl)CC | C7H16ClN
product | 3-(4-Chlorophenyl)-2-[4-(3-diethylaminopropoxy)phenylsulfonyl]benzofuran | ClC1=CC=C(C=C1)C1=C(OC2=C1C=CC=C2)S(=O)(=O)C2=CC=C(C=C2)OCCCN(CC)CC | C27H28ClNO4S
